US04245088
In dichloromethane (30 ml) was dissolved 7β-(2-thienylacetamido)-3-hydroxymethyl-3-cephem-4-carboxylic acid triethylamine salt (4.55 g), followed by the addition of succinic anhydride (1.50 g). The mixture was stirred at room temperature for 2 hours. The dichloromethane was distilled off and, following the addition of 3% aqueous phosphoric acid solution (100 ml), the residue was extracted with ethyl acetate (150 ml). The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride (100 ml×2), dried (over magnesium sulfate) and concentrated under reduced pressure. The residue was treated with ether and the resultant powder was recovered by filtration, washed with ether and dried under reduced pressure over phosphorus pentoxide. The procedure provided 7β-(2-thienylacetamido)-3-(3-carboxypropionyloxy)methyl-3-cephem-4-carboxylic acid (4.00 g).

reactant | 7β-(2-thienylacetamido)-3-hydroxymethyl-3-cephem-4-carboxylic acid triethylamine salt | 4.55 g | C(C)N(CC)CC.S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O
reactant | succinic anhydride | 1.50 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 7β-(2-thienylacetamido)-3-(3-carboxypropionyloxy)methyl-3-cephem-4-carboxylic acid | 4.00 g | S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CCC(=O)O)=O)C(=O)O)C1=O | C18H18N2O8S2
